US04276295
To 14.5 ml of 90% formic acid was added 30 ml of acetic anhydride. The mixture was warmed, and then heated to 50°-60° C. for two hours. To the mixture cooled to room temperature was added portionwise with stirring 15.0 g of 2-amino-4-ethoxycarbonyl-3,5-dimethylbenzoic acid. The mixture was further stirred at room temperature for 3 hours and poured into ice water. The resulting precipitate was filtered and recrystallized from ethyl acetate/n-hexane to yield 11.8 g (70.5% of theory) of 2-formylamino-4-ethoxycarbonyl-3,5-dimethylbenzoic acid melting at 144.5°-146° C.

reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-amino-4-ethoxycarbonyl-3,5-dimethylbenzoic acid | 15.0 g | NC1=C(C(=O)O)C=C(C(=C1C)C(=O)OCC)C | C12H15NO4
solvent | formic acid | 14.5 ml | C(=O)O | CH2O2
product | 2-formylamino-4-ethoxycarbonyl-3,5-dimethylbenzoic acid | 11.8 g, 70.5% | C(=O)NC1=C(C(=O)O)C=C(C(=C1C)C(=O)OCC)C | C13H15NO5
